US08026270B2
Ethyl (3-chloro-4-{1,3-dioxo-4,9-bis[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate
To a solution of ethyl[3-chloro-4-(4,9-dihydroxy-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetate (0.30 g, 0.71 mmol) in DMF (3 ml), was added sodium carbonate (0.299 g, 2.82 mmol) followed by 2,2,2-trifluoroethyl trifluoromethanesulfonate (0.490 g, 2.12 mmol). This was stirred at room temperature for 21 hours. Further sodium carbonate (0.11 g, 1.06 mmol) and 2,2,2-trifluoroethyl trifluoromethanesulfonate (0.246 g, 1.06 mmol) was added to the reaction to drive it to completion. This was then heated to 50° C. for 2.5 hours. Water was added to the reaction mixture with rapid stirring. The resulting tan coloured solid was collected by filtration, washed with water and dried in the vacuum oven to give the title compound (0.377 g, 0.64 mmol). LC/MS: Rt=3.98, [MH]+ 590.

reactant | ethyl[3-chloro-4-(4,9-dihydroxy-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetate | 0.71 mmol, 0.30 g | C(C)OC(CC1=CC(=C(C=C1)N1C(C=2C(=C3C(=C(C2C1=O)O)C=CC=C3)O)=O)Cl)=O | C22H16ClNO6
reactant | sodium carbonate | 2.82 mmol, 0.299 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 2.12 mmol, 0.490 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | sodium carbonate | 1.06 mmol, 0.11 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 1.06 mmol, 0.246 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | Ethyl (3-chloro-4-{1,3-dioxo-4,9-bis[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate | 0.64 mmol, 0.377 g | ClC=1C=C(C=CC1N1C(C=2C(=C3C(=C(C2C1=O)OCC(F)(F)F)C=CC=C3)OCC(F)(F)F)=O)CC(=O)OCC | C26H18ClF6NO6
